US06673797B1
1-(4-Fluorobenzyl)-2-(5-carboxypyridin-2-yl)-5-methanesulfonylindole
A mixture of 1-(4-fluorobenzyl)-5-methanesulfonyl-2-(5-methoxycarbonylpyridin-2-yl)indole (0.37 g), potassium hydroxide (0.12 g) and methanol (40 ml) was heated under reflux for 3 hours under nitrogen atmosphere. To the reaction solution was added water and the mixture was neutralized with hydrochloric acid. The precipitated crystal was filtered off. The resulting crude crystal was recrystallized (ethanol) to obtain 0.35 g of the desired product.

reactant | 1-(4-fluorobenzyl)-5-methanesulfonyl-2-(5-methoxycarbonylpyridin-2-yl)indole | 0.37 g | FC1=CC=C(CN2C(=CC3=CC(=CC=C23)S(=O)(=O)C)C2=NC=C(C=C2)C(=O)OC)C=C1 | C23H19FN2O4S
reactant | potassium hydroxide | 0.12 g | [OH-].[K+]
reactant | methanol | 40 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 1-(4-Fluorobenzyl)-2-(5-carboxypyridin-2-yl)-5-methanesulfonylindole | 0.35 g | FC1=CC=C(CN2C(=CC3=CC(=CC=C23)S(=O)(=O)C)C2=NC=C(C=C2)C(=O)O)C=C1 | C22H17FN2O4S
